US09145393B2
To a solution of benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-oxo-1,6-dihydro-[3,4′-bipyridin]-5-yl)carbamate (210 mg, 0.420 mmol) in MeOH (100 mL) was added Pd(OH)2/C (21 mg) and the mixture stirred overnight at RT under hydrogen. The Pd(OH)2/C was removed by filtration and the solvent evaporated to afford 5-amino-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide (120 mg, 80% yield) as a grey solid: 1H NMR (400 MHz, CDCl3) δ 9.96 (s, 1H), 8.57 (s, 1H), 8.36 (s, 1H), 7.48 (s, 2H), 7.45 (s, 1H), 7.00 (d, J=2.8 Hz, 1H), 6.85 (s, 1H), 4.40 (s, 1H), 2.87-2.92 (m, 1H), 2.37 (s, 3H), 1.27 (d, J=6.8 Hz, 6H); MS (ES) m/z 363 (M+H).

reactant | benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-oxo-1,6-dihydro-[3,4′-bipyridin]-5-yl)carbamate | 0.420 mmol, 210 mg | C(C)(C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC(=C1)C1=CNC(C(=C1)NC(OCC1=CC=CC=C1)=O)=O)C | C29H28N4O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd(OH)2/C | 21 mg | [OH-].[OH-].[Pd+2]
product | 5-amino-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide | 120 mg, 80% yield | NC1=CC(=CNC1=O)C1=CC(=NC=C1)C(=O)NC1=CC(=C(C=C1)C(C)C)C | C21H22N4O2
